US07125901B2
3-(4-Mercaptophenyl)propanoic acid (5 g), K2CO3 (11.4 g) and DMF (30 ml) were combined, and iodomethane (5.12 ml) was added dropwise to the mixture at 0° C. under N2 atmosphere. The reaction mixture was stirred at r.t. for 13 hours, and poured into ice-water. The mixture was extracted with AcOEt. The organic layer was washed with water (twice) and brine, dried over anhydrous MgSO4, and concentrated in vacuo to give methyl 3-[4-(methylthio)phenyl]propanoate (4.19 g) as pale yellow oil.

reactant | 3-(4-Mercaptophenyl)propanoic acid | 5 g | SC1=CC=C(C=C1)CCC(=O)O | C9H10O2S
reactant | K2CO3 | 11.4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | iodomethane | 5.12 ml | IC | CH3I
reactant | DMF | 30 ml | CN(C)C=O | C3H7NO
product | methyl 3-[4-(methylthio)phenyl]propanoate | 4.19 g | CSC1=CC=C(C=C1)CCC(=O)OC | C11H14O2S
